datasets/RMG-dataset.csv
rxn,Ea
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([H:11])([H:12])[H:13])[H:10])([H:8])[H:9]>>[C:0](#[C:1][C:2](=[S:3])[H:11])[H:4].[C:5](=[C:6]([C:7]([H:12])[H:13])[H:10])([H:8])[H:9],74.8936
[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])=[C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[H:10])([H:8])[H:9].[C:20](=[C:21][C:22]([H:25])([H:26])[H:27])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:11])([H:12])[H:13])([C:4]([C:5]([H:14])([H:15])[H:16])[C:6](=[C:7]([H:18])[H:19])[H:17])[C:21](=[C:20]([H:23])[H:24])[C:22]([H:25])([H:26])[H:27])[H:10])([H:8])[H:9],2.34304
[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:22])([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:30]([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([C:3]([C:4]1([H:19])[C:5]([H:20])([H:21])[C:6]([H:23])[C:7]([H:24])([H:25])[C:8]([H:26])([H:27])[C:9]1([H:28])[H:29])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:22][C:30]([H:31])([H:32])[H:33],47.982112
[H:4].[O:0]=[N:1][O:2][H:3]>>[O:0]=[N:1].[O:2]([H:3])[H:4],16.1084
[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[H:17]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][H:17],18.706664
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:35]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([C:10]([H:32])([H:33])[H:34])([H:30])[H:31])([H:28])[H:29])([H:26])[H:27])([H:24])[H:25])([H:22])[H:23])([H:20])[H:21])[H:19])([H:16])[H:17])([H:14])[H:15])([H:11])([H:12])[H:13].[H:18][H:35],18.706664
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])=[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])[H:16])([H:10])([H:11])[H:12].[C:22]([C:23]([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:31])([H:32])[H:33]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[C:3]([c:4]1[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]1[H:21])([H:16])[C:23]([C:22]([H:31])([H:32])[H:33])([C:24]([H:34])([H:35])[H:36])[c:25]1[c:26]([H:37])[c:27]([H:38])[c:28]([H:39])[c:29]([H:40])[c:30]1[H:41])([H:10])([H:11])[H:12],44.2249
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[O:7][H:8]>>[C:0](#[C:1][C:2]#[C:3][H:6])[H:4].[H:5][O:7][H:8],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[C:10](=[C:11][C:12](=[S:13])[H:16])([H:14])[H:15]>>[C:0](=[C:1][C:2](=[C:3]([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:11](=[C:10]([H:14])[H:15])[C:12](=[S:13])[H:16],79.496
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19](=[C:20]([C:21]([C:22]([H:27])([H:28])[H:29])[H:26])[H:25])([H:23])[H:24]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]([H:16])([H:17])[H:18])[C:21]([C:20](=[C:19]([H:23])[H:24])[H:25])([C:22]([H:27])([H:28])[H:29])[H:26])[H:9])([H:7])[H:8],44.183
[C:0](#[C:1][C:2](=[C:3]([H:6])[H:7])[C:4]([H:8])([H:9])[H:10])[H:5].[C:11]([C:12]([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])([H:15])([H:16])[H:17]>>[C:0](#[C:1][C:2]([C:3]([H:6])[H:7])([C:4]([H:8])([H:9])[H:10])[C:12]([C:11]([H:15])([H:16])[H:17])([C:13]([H:18])([H:19])[H:20])[C:14]([H:21])([H:22])[H:23])[H:5],19.7903
[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:16])([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[O:25][H:26]>>[C:0]1([H:9])([H:10])[C:1]([H:11])([H:12])[C:2]([H:13])([H:14])[C:3]2([H:15])[C:4]([H:17])[C:5]([H:18])([H:19])[C:6]([H:20])([H:21])[C:7]2([H:22])[C:8]1([H:23])[H:24].[H:16][O:25][H:26],-6.6944
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[C:12]([C:13]=[S:14])([H:15])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][C:13]([C:12]([H:15])([H:16])[H:17])=[S:14],36.8192
[C:0]([C:1]1[C:2]([H:9])([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8]>>[C:0]([C:1]1([H:9])[C:2]([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]1([H:13])[H:14])([H:6])([H:7])[H:8],102.428504
[C:0]([N+:1](=[O:2])[O-:3])([H:4])([H:5])[H:6].[C:7]([O:8])([H:9])([H:10])[H:11]>>[C:0]([N+:1](=[O:2])[O-:3])([H:5])[H:6].[H:4][O:8][C:7]([H:9])([H:10])[H:11],29.288
[C:0]([C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])([H:6])[H:7])([H:4])[H:5].[C:13]([H:14])([H:15])[H:16]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([H:8])[H:9])[H:7])([H:4])[H:5].[H:6][C:13]([H:14])([H:15])[H:16],0.0
